US07838543B2
5-(4-Chloro-phenyl)-isoxazole-3-carboxylic acid [2-(isopropyl-methyl-amino)-benzothiazol-6-yl]-amide
Prepare according to Method C (Example 9), using 5-(4-chlorophenyl)isoxazole-3-carboxylic acid (39 mg, 0.174 mmol), oxalyl chloride (300 μL, 3.44 mmol), and N2-isopropyl-N2-methyl-benzothiazole-2,6-diamine (33 mg, 0.149 mmol) to afford the title compound (23 mg, 36%). mass spectrum (m/e): 427.0 [M+H]. 1H NMR (400 MHz, DMSO-d6) δ 10.76 (s, 1H), 8.24 (d, 1H, J=2.2 Hz), 8.01 (d, 2H, J=8.8 Hz), 7.66 (d, 2H, J=8.4 Hz), 7.60 (dd, 1H, J=8.8, 2.2 Hz), 7.54 (s, 1H), 7.41 (d, 1H, J=8.4 Hz), 4.34 (m, 1H), 2.98 (s, 3H), 1.23 (d, 6H, J=6.6 Hz).

reactant | 5-(4-chlorophenyl)isoxazole-3-carboxylic acid | 0.174 mmol, 39 mg | ClC1=CC=C(C=C1)C1=CC(=NO1)C(=O)O | C10H6ClNO3
reactant | oxalyl chloride | 3.44 mmol, 300 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N2-isopropyl-N2-methyl-benzothiazole-2,6-diamine | 0.149 mmol, 33 mg | C(C)(C)N(C=1SC2=C(N1)C=CC(=C2)N)C | C11H15N3S
product | 5-(4-Chloro-phenyl)-isoxazole-3-carboxylic acid [2-(isopropyl-methyl-amino)-benzothiazol-6-yl]-amide | 23 mg, 36% | C(C)(C)N(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=NOC(=C2)C2=CC=C(C=C2)Cl)C | C21H19ClN4O2S
